US04470986
A solution of 0.1 g of 2-aminomethyl-3-(4-methoxycarbonylbutyl)pyridine in 0.6 ml of formic acid is heated at 90° for 18 hours. The mixture is cooled to 0°, made basic with saturated ammonium hydroxide solution and extracted with methylene chloride (4×10 ml). Drying, filtration and evaporation of the extracts yields 2-(N-formylaminomethyl)-3-(4-methoxycarbonylbutyl)pyridine, melting at 43°-45° C. which is redissolved in 1 ml of toluene and heated at 90° for 17 hours with 75 mg of phosphorus oxychloride. Evaporation of excess phosphorus oxychloride with toluene, basification at 0° with saturated ammonium hydroxide solution, extraction with methylene chloride (4×15 ml) and drying over sodium sulfate yields an oil, which is chromatographed (silica gel, ethyl acetate) to yield as an oil, 8-(4-methoxycarbonylbutyl)imidazo[1,5-a]pyridine; Rf 0.29;NMR (CDCl3) 3.70 (s, 3H), 6.50 (d, 2H), 7.43 (s, 1H), 7.83 (t, 1H), 8.22 (s, 1H); IR (CH2Cl2) 1725 cm-1.

reactant | 2-aminomethyl-3-(4-methoxycarbonylbutyl)pyridine | 0.1 g | NCC1=NC=CC=C1CCCCC(=O)OC | C12H18N2O2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | formic acid | 0.6 ml | C(=O)O | CH2O2
product | 2-(N-formylaminomethyl)-3-(4-methoxycarbonylbutyl)pyridine | C(=O)NCC1=NC=CC=C1CCCCC(=O)OC | C13H18N2O3
